US05036107
1-(Trimethylsilyloxy)-1-cyclohexyl-1-phenylpropan-2-one
1-Cyclohexyl-1-hydroxy-1-phenylpropan-2-one is added to dry acetonitrile and the solution is stirred. Bis (trimethylsilyl)acetamide is then added and the reaction mixture is heated at 30° C. for 1 hour. The solution is then cooled and evaporated to dryness under vacuum to afford the product as a white crystalline solid after recrystallization.

reactant | 1-Cyclohexyl-1-hydroxy-1-phenylpropan-2-one | C1(CCCCC1)C(C(C)=O)(C1=CC=CC=C1)O | C15H20O2
reactant | Bis (trimethylsilyl)acetamide | C[Si](C)(C)C(C(=O)N)[Si](C)(C)C | C8H21NOSi2
solvent | acetonitrile | C(C)#N | C2H3N
product | 1-(Trimethylsilyloxy)-1-cyclohexyl-1-phenylpropan-2-one | C[Si](OC(C(C)=O)(C1=CC=CC=C1)C1CCCCC1)(C)C | C18H28O2Si
